US07314885B2
{4-[5-Amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrol-2-yl}-(2,5-dihydro-pyrrol-1-yl)-methanone (I-43).
To a solution of 4-[5-amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid (10 mg, 0.03 mmol) in DMA (1 mL) was added CDI (6 mg, 0.04 mmol). The solution was stirred at RT for 30 min before the addition of 2,5-dihydro-1H-pyrrole (6 mg, 0.09 mmol). The reaction mixture was stirred at RT for another 60 min and purified by Gilson HPLC directly to afford a white solid (7.5 mg, 64%). MS (ES+): m/e=389.2 (M+H); LC: 2.65 min.

reactant | 4-[5-amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid | 0.03 mmol, 10 mg | NC=1N(C(=NN1)C=1C=C(NC1)C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C13H9Cl2N5O2
reactant | CDI | 0.04 mmol, 6 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2,5-dihydro-1H-pyrrole | 0.09 mmol, 6 mg | N1CC=CC1 | C4H7N
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | {4-[5-Amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrol-2-yl}-(2,5-dihydro-pyrrol-1-yl)-methanone | 7.5 mg, 64% | NC=1N(C(=NN1)C=1C=C(NC1)C(=O)N1CC=CC1)C1=C(C(=CC=C1)Cl)Cl | C17H14Cl2N6O
